US07863310B2
1-Isobutyl-2-amino-6-(2-phenyl-1H-imidazol-1-yl)-1H-benzimidazole
Add cyanogen bromide (177 mg, 1.67 mmol) to a solution of 1-(3-(isobutylamino)-4-aminophenyl)-2-phenyl-1H-imidazole (410 mg, 1.34 mmol) in 10 mL isopropanol cooled to 0° C. Stir for one hour at this temperature and then stir at room temperature over night. Dilute with ethyl acetate and wash with 1N sodium hydroxide. Dry the organic layer over sodium sulfate, filter, and concentrate under reduced pressure. Subject the residue to radial silica gel chromatography, eluting with methanol containing 4% methanol to provide the title compound as a tan solid (220 mg, 50%).

reactant | cyanogen bromide | 1.67 mmol, 177 mg | N#CBr | CBrN
reactant | 1-(3-(isobutylamino)-4-aminophenyl)-2-phenyl-1H-imidazole | 1.34 mmol, 410 mg | C(C(C)C)NC=1C=C(C=CC1N)N1C(=NC=C1)C1=CC=CC=C1 | C19H22N4
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Isobutyl-2-amino-6-(2-phenyl-1H-imidazol-1-yl)-1H-benzimidazole | 220 mg, 50% | C(C(C)C)N1C(=NC2=C1C=C(C=C2)N2C(=NC=C2)C2=CC=CC=C2)N | C20H21N5
